US07138425B2
b) 2-(5-Amino-2-(3-furanylmethoxy)phenyl)-5-phenylbenzoxazole
Prepared by the method of Example 47b), from 2-(5-nitro-2-(3-furanylmethoxy)phenyl)-5-phenylbenzoxazole (392 mg, 0.95 mmol) and zinc (622 mg, 9.5 mmol) the subtitle compound was obtained (382 mg, 93%). The product was used directly in the next step without purification.

reactant | 2-(5-nitro-2-(3-furanylmethoxy)phenyl)-5-phenylbenzoxazole | 0.95 mmol, 392 mg | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCC2=COC=C2 | C24H16N2O5
catalyst | zinc | 9.5 mmol, 622 mg | [Zn] | Zn
product | 2-(5-Amino-2-(3-furanylmethoxy)phenyl)-5-phenylbenzoxazole | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCC2=COC=C2 | C24H18N2O3
